US04954518
In 16 ml of ethyl orthoformate was suspended 3.21 g of methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone. To the mixture being ice-cooled was dropwise added 2.15 g of a 70% aqueous perchloric acid solution in 10 minutes. Stirring was conducted for 30 minutes at 20°-25° C. 50 ml of diethyl ether was added thereto. The resulting crystal was collected by filtration. The crystal was mixed with 50 ml of water, and the mixture was refluxed for 2 minutes and then cooled to room temperature. The resulting crystal was collected by filtration and recrystallized from acetonitrile to obtain 2.90 g (yield: 87.6%) of 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone | 3.21 g | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1)C(=O)C | C15H15NO5S
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl orthoformate | 16 ml | C(OCC)([O-])[O-]
product | 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.90 g, yield: 87.6% | CS(=O)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C16H13NO5S
